### PR TITLE
[Merged by Bors] - chore: forward-port leanprover-community/mathlib#18852

### PR DESCRIPTION
**Pull request by ericrbg**
This additionally makes a further small generalization to some of the finsupp instances (labelled with porting notes) which should be backported.

The new statement of `Rat.smul_one_eq_coe` fixes a proof in `Mathlib/Analysis/NormedSpace/Basic.lean` that was mangled during porting.

---

* [`data.polynomial.coeff`@`fa256f00ce018e7b40e1dc756e403c86680bf448`..`2651125b48fc5c170ab1111afd0817c903b1fc6c`](https://leanprover-community.github.io/mathlib-port-status/file/data/polynomial/coeff?range=fa256f00ce018e7b40e1dc756e403c86680bf448..2651125b48fc5c170ab1111afd0817c903b1fc6c)
* [`data.polynomial.basic`@`1f0096e6caa61e9c849ec2adbd227e960e9dff58`..`2651125b48fc5c170ab1111afd0817c903b1fc6c`](https://leanprover-community.github.io/mathlib-port-status/file/data/polynomial/basic?range=1f0096e6caa61e9c849ec2adbd227e960e9dff58..2651125b48fc5c170ab1111afd0817c903b1fc6c)
* [`algebra.monoid_algebra.basic`@`57e09a1296bfb4330ddf6624f1028ba186117d82`..`2651125b48fc5c170ab1111afd0817c903b1fc6c`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/monoid_algebra/basic?range=57e09a1296bfb4330ddf6624f1028ba186117d82..2651125b48fc5c170ab1111afd0817c903b1fc6c)
* [`algebra.algebra.basic`@`2738d2ca56cbc63be80c3bd48e9ed90ad94e947d`..`2651125b48fc5c170ab1111afd0817c903b1fc6c`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/algebra/basic?range=2738d2ca56cbc63be80c3bd48e9ed90ad94e947d..2651125b48fc5c170ab1111afd0817c903b1fc6c)
* [`data.finsupp.basic`@`f7fc89d5d5ff1db2d1242c7bb0e9062ce47ef47c`..`2651125b48fc5c170ab1111afd0817c903b1fc6c`](https://leanprover-community.github.io/mathlib-port-status/file/data/finsupp/basic?range=f7fc89d5d5ff1db2d1242c7bb0e9062ce47ef47c..2651125b48fc5c170ab1111afd0817c903b1fc6c)
* [`algebra.field.defs`@`70d50ecfd4900dd6d328da39ab7ebd516abe4025`..`2651125b48fc5c170ab1111afd0817c903b1fc6c`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/field/defs?range=70d50ecfd4900dd6d328da39ab7ebd516abe4025..2651125b48fc5c170ab1111afd0817c903b1fc6c)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ericrbg** [comment]
I added some changes in a separate commit that I completely missed in Lean3 but are trivial - I am happy to revert them if it is seem as out of scope.

**Comment by ericrbg** [comment]
Eric, the check failure seems to be one of the instances I was on about in Lean3 - it doesn't like the difference between the `algebra` smul and the qsmul. I don't understand coercions in Lean4 well enough to think of what the best fix is.

**Comment by eric-wieser** [comment]
> I added some changes in a separate commit that I completely missed in Lean3 but are trivial - I am happy to revert them if it is seem as out of scope.

I'd rather you just backport them; having mismatching instances between lean3 and lean4 sounds like preparation for shooting ourselves in the foot.

**Comment by ericrbg** [comment]
Sure, I'll do that. What should I do about the regression with the new rat smul lemma?

**Comment by eric-wieser** [comment]
> Sure, I'll do that. What should I do about the regression with the new rat smul lemma?

Fixed. The proof was made weird during porting, reverting it to the mathlib3 proof fixes things.

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean:1]: This file is missing a SHA update!

File: Mathlib/Data/Finsupp/Basic.lean [hunk 1]
```diff
@@ -1495,23 +1495,26 @@ Throughout this section, some `Monoid` and `Semiring` arguments are specified wi
...
-
+-- porting note: changed `AddMonoid` to `Zero`
 @[simp]
-theorem coe_smul [AddMonoid M] [DistribSMul R M] (b : R) (v : α →₀ M) : ⇑(b • v) = b • ⇑v :=
+theorem coe_smul [Zero M] [SMulZeroClass R M] (b : R) (v : α →₀ M) : ⇑(b • v) = b • ⇑v :=
   rfl
 #align finsupp.coe_smul Finsupp.coe_smul
 
-theorem smul_apply [AddMonoid M] [DistribSMul R M] (b : R) (v : α →₀ M) (a : α) :
+-- porting note: changed `AddMonoid` to `Zero`
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean:1504]: @ericrbg; rather than waiting for you to backport, I've added these porting notes. When you do the backport, you can record the forward-port by removing them.

File: Mathlib/Data/Polynomial/Basic.lean [hunk 2]
```diff
@@ -1208,6 +1213,16 @@ theorem X_ne_zero : (X : R[X]) ≠ 0 :=
 
 end NonzeroSemiring
 
+section DivisionRing
+
+variable [DivisionRing R]
+
+theorem rat_smul_eq_c_mul (a : ℚ) (f : R[X]) : a • f = Polynomial.C (a : R) * f := by
+  rw [← Rat.smul_one_eq_coe, ← Polynomial.smul_C, C_1, smul_one_mul]
+#align polynomial.rat_smul_eq_C_mul Polynomial.rat_smul_eq_c_mul
```
Comment (eric-wieser) [inline Mathlib/Data/Polynomial/Basic.lean:1222]:
```suggestion
theorem rat_smul_eq_C_mul (a : ℚ) (f : R[X]) : a • f = Polynomial.C (a : R) * f := by
  rw [← Rat.smul_one_eq_coe, ← Polynomial.smul_C, C_1, smul_one_mul]
#align polynomial.rat_smul_eq_C_mul Polynomial.rat_smul_eq_C_mul
```

**Comment by eric-wieser** [comment]
bors merge

**Comment by ericrbg** [comment]
Thanks for sorting the rest of this! I did the backport here: leanprover-community/mathlib#18874 and will fix SHA & such after everything works.
